US08278482B2
3-Azido-3-methylbutan-1-ol
Borane dimethylsulfide complex (2 M, 15 mL, 30 mmol) was added over 20 min to 3-azido-3-methylbutanoic acid (4.25 g, 30 mmol) in THF (15 mL) at room temperature. The reaction was stirred for 16 h. The reaction mixture was cooled in an ice bath and methanol (50 mL) was added dropwise to the solution over 15 min. Then 4 M HCl in dioxanes (7.5 mL, 30 mmol) was added to the reaction mixture and stirred for 30 min. The reaction mixture was concentrated on a rotovap to a colorless liquid (3.33 g, 91%). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 1.35 (s, 6H), 1.74-1.78 (t, J=6.4, 2H), 3.75-3.80 (t, J=6.4, 2H). LRMS (ESI+) for C5H11N3O (129.1); Found: did not ionize.

reactant | 3-azido-3-methylbutanoic acid | 30 mmol, 4.25 g | N(=[N+]=[N-])C(CC(=O)O)(C)C | C5H9N3O2
reactant | methanol | 50 mL | CO | CH4O
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-Azido-3-methylbutan-1-ol | N(=[N+]=[N-])C(CCO)(C)C | C5H11N3O
